US07547699B2
Step 3 (4R,9aR)-6-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-7-formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 26.5 g (0.049 mol) (4R,9aR)-7-bromo-6-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 800 ml toluene was added at −78° C. during 10 minutes 50 ml of a 1.5 M solution of tert. butyllithium in pentane. The reaction mixture was stirred at −78° C. for 30 minutes. To the resulting orange solution was added 30 ml dimethylformamide during 3 minutes. The reaction mixture was stirred at −78° C. for 30 minutes and the cooling bath was then removed and the mixture was stirred for 30 min at ambient temperature. The reaction was quenched by addition of 300 ml of a 10% aqueous solution of citric acid and extracted with ethyl acetate. The organic phase was washed with a 10% aqueous solution of sodium bicarbonate and brine, dried over sodium sulfate, evaporated under aspirator vacuum and purified by chromatography on silica gel with heptane:ethyl acetate=4:1 to 3:1. to yield 22.70 g (94.6%) of the title compound as yellow foam (MS: 490 (M+H+)).

reactant | (4R,9aR)-7-bromo-6-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.049 mol, 26.5 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C(O[SiH](C)C)C(C(C)C)(C)C)Br | C25H42BrN3O3Si
reactant | tert. butyllithium | C(C)(C)(C)[Li]
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
solvent | pentane | CCCCC | C5H12
product | (4R,9aR)-6-[Dimethyl-(1,1,2-trimethyl-propyl)-silanyloxymethyl]-7-formyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 22.70 g, 94.6% | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C(O[SiH](C)C)C(C(C)C)(C)C)C=O | C26H43N3O4Si
